US07666879B2
B. 1-(5-tert-Butyl-isoxazol-3-yl)-3-(2-fluoro-4-{7-[2-(3-oxo-propyl)-pyridin-4-yl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-urea hydrochloride
Slurry 1-(5-tert-butyl-isoxazol-3-yl)-3-(4-{7-[2-(3,3-diethoxy-propyl)-pyridin-4-yl]-imidazo[1,2-a]pyridin-3-yl}-2-fluoro-phenyl)-urea (1 g, 1.7 mmol) in ethyl acetate (35 mL). Add aqueous 1 N HCl (3.3 mL, 2 equiv.) and stir at room temperature. After 1.5 hours, concentrate to dryness to give an orange solid (0.98 g, 105%). MS (ES), m/z 527 (M+1).

reactant | 1-(5-tert-butyl-isoxazol-3-yl)-3-(4-{7-[2-(3,3-diethoxy-propyl)-pyridin-4-yl]-imidazo[1,2-a]pyridin-3-yl}-2-fluoro-phenyl)-urea | 1.7 mmol, 1 g | C(C)(C)(C)C1=CC(=NO1)NC(=O)NC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC(=NC=C2)CCC(OCC)OCC)F | C33H37FN6O4
reactant | HCl | 1 N, 3.3 mL, 2 equiv. | Cl | ClH
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
product | 1-(5-tert-Butyl-isoxazol-3-yl)-3-(2-fluoro-4-{7-[2-(3-oxo-propyl)-pyridin-4-yl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-urea hydrochloride | 0.98 g, 105% | Cl.C(C)(C)(C)C1=CC(=NO1)NC(=O)NC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC(=NC=C2)CCC=O)F | InChI=1S/C29H27FN6O3.ClH/c1-29(2,3)25-16-26(35-39-25)34-28(38)33-23-7-6-20(14-22(23)30)24-17-32-27-15-19(9-11-36(24)27)18-8-10-31-21(13-18)5-4-12-37;/h6-17H,4-5H2,1-3H3,(H2,33,34,35,38);1H
